US06756395B2
A solution of tosylmethyl isocyanide (1.8 g, 9.22 mmole) in anhydrous ethylene glycol dimethyl ether (60 mL) was added drop-wise into a stirred suspension of potassium tert-butoxide (2.81 g, 25.0 mmole) in anhydrous ethylene glycol dimethyl ether (60 mL) under nitrogen at −65° C. After stirring at −65° C. for 15 min., N-(4-formyl-benzofuran-7-yl)-methanesulfonamide (2.0 g, 8.36 mmole) in anhydrous ethylene glycol dimethyl ether (60 mL) was added drop-wise and the reaction temperature was maintained below −60° C. After stirring for another hour before methanol (30 mL) was added. The reaction mixture was heated to reflux for 20 minutes then stirred at room temperature for 16 hrs. The resulting solution was partitioned between ethyl acetate and aqueous 2% acetic acid. The organic extract was washed with brine, dried (anhydrous sodium sulfate) and concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 40 to and 50% ethyl acetate in hexane to give N-(4-cyanomethyl-benzofuran-7-yl)-methanesulfonamide as a solid (1.31 g, 62%). 1H NMR (DMSO-d6) δ: 3.11 (s, 3H), 4.28 (s, 2H), 7.17 (d, 1H, J=2.2 Hz), 7.24-7.30 (m, 2H) 8.15 (d, 1H, J=2.2 Hz), 9.23 (s, 11H) M−H 249.

reactant | tosylmethyl isocyanide | 9.22 mmole, 1.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butoxide | 25.0 mmole, 2.81 g | CC(C)([O-])C.[K+]
reactant | N-(4-formyl-benzofuran-7-yl)-methanesulfonamide | 8.36 mmole, 2.0 g | C(=O)C1=CC=C(C2=C1C=CO2)NS(=O)(=O)C | C10H9NO4S
reactant | methanol | 30 mL | CO | CH4O
solvent | ethylene glycol dimethyl ether | 60 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 60 mL | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 60 mL | COCCOC | C4H10O2
product | N-(4-cyanomethyl-benzofuran-7-yl)-methanesulfonamide | 1.31 g, 62% | C(#N)CC1=CC=C(C2=C1C=CO2)NS(=O)(=O)C | C11H10N2O3S
